US06569860B2
To a solution of 3-(5-phenyl-benzofuran-2-ylmethoxycarbonylamino)-isonicotinic acid ethyl ester (0.150 g, 0.36 mmol) in THF (3 ml) was added at room temperature 1.0M LiOH (0.72 mL, 0.72 mmol) and the mixture was stirred for 3 h. The solvent was evaporated, water was added, followed by 2N HCl to adjust the pH to 1-2, and the product was extracted with EtOAc. The extract was washed with water, then brine, and dried over magnesium sulfate and concentrated to dryness. Purification by crystallization gave 0.072 g of 3-(5-phenyl-benzofuran-2-ylmethoxycarbonylamino)-isonicotinic acid as a white solid, mp 235.7-238.9° C.

reactant | 3-(5-phenyl-benzofuran-2-ylmethoxycarbonylamino)-isonicotinic acid ethyl ester | 0.36 mmol, 0.150 g | C(C)OC(C1=C(C=NC=C1)NC(=O)OCC=1OC2=C(C1)C=C(C=C2)C2=CC=CC=C2)=O | C24H20N2O5
reactant | LiOH | 0.72 mmol, 1.0M, 0.72 mL | [Li+].[OH-]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 3-(5-phenyl-benzofuran-2-ylmethoxycarbonylamino)-isonicotinic acid | 0.072 g | C1(=CC=CC=C1)C=1C=CC2=C(C=C(O2)COC(=O)NC2=C(C(=O)O)C=CN=C2)C1 | C22H16N2O5
